US04009313
Preparation of 90/10 vinyl pyrrolidone/glycidyl methacrylate copolymer.
A 3-neck, round bottom flask equipped with a mechanical stirrer, means for maintaining an inert atmosphere, and a thermometer is charged with 395 ml. of distilled water, 22.2 g. (0.2 mol) of N-vinyl pyrrolidone, and 3.10 g. (0.022 mol) of glycidyl methacrylate. The flask is flushed with nitrogen, and the contents are maintained under nitrogen during the course of the reaction. The mixture is stirred, the temperature raised to 50-55° C. and maintained at this temperature, and 0.2 g. of 4,4'-azobiscyanopentanoic acid is added as polymerization catalyst. As solid material separates from solution during the reaction, acetone (totaling 125 ml.) is added to maintain it in solution. Agitation and heating is maintained for a total of about three hours. At the end of this time the mixture is cooled, and the colorless, syrupy solution is filtered to remove a small amount of insoluble material. The solution obtained contains about 5 percent copolymer. It may be used as such or the polymer may be isolated by spray or drum drying.

reactant | N-vinyl pyrrolidone | 0.2 mol | C(=C)N1C(CCC1)=O | C6H9NO
reactant | glycidyl methacrylate | 0.022 mol | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
solvent | water | O | H2O
product | vinyl pyrrolidone glycidyl methacrylate | C(=C)N1C(CCC1)=O.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C6H9NO/c1-5(2)7(8)10-4-6-3-9-6;1-2-7-5-3-4-6(7)8/h6H,1,3-4H2,2H3;2H,1,3-5H2
